US04182910
410 g (10 moles) of acetonitrile and 483 g (10.5 moles) of ethanol are dissolved in 900 g of decaline and the mixture is cooled to -10° C. With stirring, 383 g (10.5 moles) of anhydrous hydrogen chloride is introduced directly into the solution. The HCl introduction period amounts to 80 minutes, the temperature increasing, despite continued refrigeration, to +7° C. After completion of the HCl introduction, the temperature is raised to 30° C.; after 2.5 hours the imidoethyl ester hydrochloride crystallizes out; then stirring is continued at 30° C. for another 11 hours. 1150 grams of ethanol (25 moles) is then added to the solution and it is neutralized against methyl red with 115 g of a 20% solution of sodium ethylate in ethanol. After the neutralization, the temperature is raised to 35° C. and the mixture is stirred for 5 hours. After it has been chilled to 10° C., the ammonium chloride is centrifuged out and washed with decaline. The combined filtrates are treated, after chloride determination (titration with AgNO3), with an appropriate excess of sodium ethanolate (35 g of 20% solution of sodium ethanolate in ethanol). The filtrate thus treated is distilled in vacuo in a packed column. 1414 g of triethyl orthoacetate (B.P. 66°-68° C. at 41 Torr) is obtained (8.73 moles= 87.3% with respect to acetonitrile input and 91.2% with respect to reacted acetonitrile). After the acetamide has been filtered out of the sump phase, the decaline thus purified can be reused.

reactant | acetonitrile | 10 moles, 410 g | C(C)#N | C2H3N
reactant | hydrogen chloride | 10.5 moles, 383 g | Cl | ClH
reactant | methyl red | CN(C)C=1C=CC(=CC1)N=NC=2C=CC=CC2C(=O)O | C15H15N3O2
reactant | sodium ethylate | CC[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | decaline | 900 g | C1CCCC2CCCCC12 | C10H18
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 25 moles, 1150 grams | C(C)O | C2H6O
solvent | ethanol | 10.5 moles, 483 g | C(C)O | C2H6O
product | triethyl orthoacetate | 1414 g | C(C)(OCC)(OCC)OCC | C8H18O3
